US08114993B2
2-(3,5-Bis(trifluoromethyl)phenyl)-5-Methylbenzoic Acid (Entry 1, Table II)
Palladium acetate (11.4 mg, 0.05 mmol), AgOAc (217 mg, 1.3 mmol), 3-methylbenzoic acid (136 mg, 1.0 mmol, 3,5-bis(trifluoromethyl)iodobenzene (1.02 g, 3.0 mmol and acetic acid (200 μL) were combined and heated at 120° C. for 4.5 h. After purification white solid was obtained, 207 mg (59%), mp 217-219° C. (isooctane). Rf-0.60 (1/9 ethyl acetate-dichloromethane). 1H NMR (300 MHz, acetone-d6): δ 2.46 (s, 3H), 7.38-7.51 (m, 2H), 7.87 (s, 1H), 7.94 (s, 2H), 8.00 (s, 1H), 11.3 (brs, 1H). 13C NMR (75 MHz, acetone-d6) 320.6, 120.9 (br s), 124.2 (q, J-271.1 Hz), 129.7 (br s), 130.8, 131.1 (q, J-33.3 Hz), 131.5, 131.7, 133.1, 137.6, 139.3, 144.9, 168.0. FT-IR (neat, cm1) υ 1689, 1290, 1121. Anal. calcd for C16H10F6O2 (348.2 g/mol) C, 55.18; H, 2.89. Found: C) 55.07; H, 2.81. The 1H NMR and 13C NMR spectra are shown in FIGS. 24A&B, respectively.

reactant | 3-methylbenzoic acid | CC=1C=C(C(=O)O)C=CC1 | C8H8O2
reactant | 3,5-bis(trifluoromethyl)iodobenzene | 3.0 mmol, 200 μL, 1.02 g | FC(C=1C=C(C=C(C1)C(F)(F)F)I)(F)F | C8H3F6I
catalyst | Palladium acetate | 0.05 mmol, 11.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | AgOAc | 1.3 mmol, 217 mg | CC(=O)[O-].[Ag+]
product | 2-(3,5-Bis(trifluoromethyl)phenyl)-5-Methylbenzoic Acid | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=C(C(=O)O)C=C(C=C1)C)(F)F | C16H10F6O2
